US07435837B2
Treatment of (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate (6.54 g, 16.92 mmol) with sodium azide (4.37 g, 67.68 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide. Treatment of the azide (1.78 g, 6.92 mmol) with triphenylphosphine (1.81 g, 6.92 mmol) generally according to the procedure described for Example 21 afforded 0.454 g (28%) of (±)-1-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 216-218° C.; Anal. calcd. for C15H21NOHCl: C, 67.28; H, 8.28; N, 5.23. Found: C, 66.19; H, 8.27; N, 5.14.

reactant | (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 16.92 mmol, 6.54 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2\C=C\C(C)(C)C | C22H26O4S
reactant | sodium azide | 67.68 mmol, 4.37 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | CC(/C=C/C1=CC=CC=2CC(OC21)CN=[N+]=[N-])(C)C | C15H19N3O
reactant | azide | 6.92 mmol, 1.78 g | [N-]=[N+]=[N-]
reactant | triphenylphosphine | 6.92 mmol, 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (±)-1-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 0.454 g, 28% | CC(/C=C/C1=CC=CC=2CC(OC21)CN)(C)C | C15H21NO
